US07915424B2
5-(4-Fluorophenylethynyl)-pyridine-3-carbaldehyde oxime hydrochloride
Prepare in a similar manner as described in EXAMPLE 6 using 5-(4-fluorophenylethynyl)-pyridine-3-carbaldehyde (150 mg, 0.64 mmol), (prepared essentially as described in EXAMPLE 99), hydroxylamine hydrochloride (360 mg, 5.15 mmol) and potassium carbonate (440 mg, 3.22 mmol) to give the title compound (90 mg, 50%).

reactant | 5-(4-fluorophenylethynyl)-pyridine-3-carbaldehyde | 0.64 mmol, 150 mg | FC1=CC=C(C=C1)C#CC=1C=C(C=NC1)C=O | C14H8FNO
reactant | hydroxylamine hydrochloride | 5.15 mmol, 360 mg | Cl.NO
reactant | potassium carbonate | 3.22 mmol, 440 mg | C([O-])([O-])=O.[K+].[K+]
product | 5-(4-Fluorophenylethynyl)-pyridine-3-carbaldehyde oxime hydrochloride | 90 mg, 50% | Cl.FC1=CC=C(C=C1)C#CC=1C=C(C=NC1)C=NO | InChI=1S/C14H9FN2O.ClH/c15-14-5-3-11(4-6-14)1-2-12-7-13(10-17-18)9-16-8-12;/h3-10,18H;1H
